US07745438B2
(2R,5R)-5-[(1S,2S)-1-benzyloxy-2-dibenzylamino-3-(3,5-difluorophenyl)-propyl]-2-cyclohexyloxymethyl-morpholine-4-carboxylic acid tert-butyl ester
Dissolve [(1R,2S,3S)-2-benzyloxy-3-dibenzylamino-4-(3,5-difluorophenyl)-1-hydroxymethyl-butyl]-((R)-3-cyclohexyloxy-2-hydroxypropyl)-carbamic acid tert-butyl ester (0.940 g, 1.216 mmol) in benzene (6 mL) followed by the addition of tributylphosphine (0.369 g, 1.824 mmol) and N,N-tetramethyl azodicarboxamide (TMAD) (0.314 g, 1.824 mmol). Stir vigorously for 16 hours, filter the slurry, wash with hexanes and purify (silica gel chromatography, eluting with 5:95 to 15:85 ethyl acetate:hexanes) to give the desired compound as a white foam (0.777 g, 84.7%).

reactant | [(1R,2S,3S)-2-benzyloxy-3-dibenzylamino-4-(3,5-difluorophenyl)-1-hydroxymethyl-butyl]-((R)-3-cyclohexyloxy-2-hydroxypropyl)-carbamic acid tert-butyl ester | 1.216 mmol, 0.940 g | C(C)(C)(C)OC(N(C[C@H](COC1CCCCC1)O)[C@@H]([C@H]([C@H](CC1=CC(=CC(=C1)F)F)N(CC1=CC=CC=C1)CC1=CC=CC=C1)OCC1=CC=CC=C1)CO)=O | C46H58F2N2O6
reactant | tributylphosphine | 1.824 mmol, 0.369 g | C(CCC)P(CCCC)CCCC | C12H27P
solvent | benzene | 6 mL | C1=CC=CC=C1 | C6H6
product | (2R,5R)-5-[(1S,2S)-1-benzyloxy-2-dibenzylamino-3-(3,5-difluorophenyl)-propyl]-2-cyclohexyloxymethyl-morpholine-4-carboxylic acid tert-butyl ester | 0.777 g, 84.7% | C(C)(C)(C)OC(=O)N1C[C@@H](OC[C@@H]1[C@H]([C@H](CC1=CC(=CC(=C1)F)F)N(CC1=CC=CC=C1)CC1=CC=CC=C1)OCC1=CC=CC=C1)COC1CCCCC1 | C46H56F2N2O5
